US07622578B2
In a 3-L multi-neck round-bottomed flask equipped with mechanical stirrer, thermometer, 500-mL pressure equalizing addition funnel, and reflux condenser with a nitrogen head, was added 199 g (0.178 moles) of CCI-779 boronate, a solution of 105 g of 2-methyl-2,4-pentanediol (0.891 moles) in 371 g of diethyl ether and 185 g of heptanes. The mixture was heated to 33-37° C. with stirring under nitrogen and held for 12 h. HPLC showed the consumption of starting CCI-779 boronate (<3%) and phenylboronic acid in the reaction mixture below the specification of less than 3.0% or less than 1.5%. Cooled the reaction mixture to 20-25° C. over a 20 minutes, added 928 g of heptanes through the addition funnel over 1 h, then stirred at 20-25° C. for 1 h. The resulting mixture was filtered on a Buchner funnel. The filtered solids were washed with two portions of 500 mL of heptanes. After drying by suction until essentially no more filtrate is collected, 174 grams of crude CCI-779 was isolated [Strength=93.8%, total impurities=1.36%, rapamycin=0.40% (HPLC); ether=0.15%, heptanes=0.26% (GC)].

reactant | CCI-779 boronate | 0.178 moles, 199 g | C[C@@H]1CC[C@H]2C[C@@H](/C(=C/C=C/C=C/[C@H](C[C@H](C(=O)[C@@H]([C@@H](/C(=C/[C@H](C(=O)C[C@H](OC(=O)[C@@H]3CCCCN3C(=O)C(=O)[C@@]1(O2)O)[C@H](C)C[C@@H]4CC[C@H]([C@@H](C4)OC)OC(=O)C(C)(CO)CO)C)/C)O)OC)C)C)/C)OC.B([O-])[O-]
reactant | 2-methyl-2,4-pentanediol | 0.891 moles, 105 g | CC(C)(CC(C)O)O | C6H14O2
solvent | diethyl ether | 371 g | C(C)OCC | C4H10O
product | CCI-779 | 174 grams | C[C@@H]1CC[C@H]2C[C@@H](/C(=C/C=C/C=C/[C@H](C[C@H](C(=O)[C@@H]([C@@H](/C(=C/[C@H](C(=O)C[C@H](OC(=O)[C@@H]3CCCCN3C(=O)C(=O)[C@@]1(O2)O)[C@H](C)C[C@@H]4CC[C@H]([C@@H](C4)OC)OC(=O)C(C)(CO)CO)C)/C)O)OC)C)C)/C)OC | C56H87NO16
